US04940718
Sodium benzenesulfinate (50 g, 304.6 mmol) was dissolved in water (200 ml). A dioxane solution (200 ml) of chloroacetone (29.6 g, 319.9 mmol) was added and the solution was stirred and heated to 50° C. for 22 hours then cooled to approximately 25° C. The solution was extracted with methylene chloride (2X, 250 ml), the methylene chloride layers were combined and washed with saturated aqueous sodium bicarbonate solution (1X, 250 ml) and water (1X, 250 ml) then the aqueous wash solutions were combined and extracted with methylene chloride (2X, 100 ml). All of the methylene chloride layers were combined and washed with saturated aqueous sodium chloride solution (1X, 150 ml), dried over sodium sulfate, filtered and concentrated in vacuo to a solid. The solid was dissolved in diethyl ether (800 ml) with gentle heating and then the solution was stirred and allowed to cool to room temperature. The solution was slowly cooled to 0° C. with stirring, causing the product to crystallize. The resulting crystals were collected by filtration, washed with cold diethyl ether, and dried in vacuo at 35° C. for 4 hours to yield 36.43 g of (phenylsulfonyl)acetone. The filtrate was concentrated to approximately one-eighth of its volume in vacuo and was gradually cooled below room temperature to induce crystallization, then stirred overnight at room temperature. The resulting crystals were collected by filtration, washed with cold diethyl ether, and dried in vacuo at 35° C. for 8 hours to yield an additional 14 g of the (phenylsulfonyl)acetone: n.m.r. (90 MHz, CDCl3): δ 2.39 (s, 3), 4.17 (s, 2), 7.55-7.95 (m, 5); m.p. 56°-58° C.

reactant | Sodium benzenesulfinate | 304.6 mmol, 50 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | dioxane | 200 ml | O1CCOCC1 | C4H8O2
reactant | chloroacetone | 319.9 mmol, 29.6 g | ClCC(C)=O | C3H5ClO
solvent | water | 200 ml | O | H2O
product | (phenylsulfonyl)acetone | 36.43 g | C1(=CC=CC=C1)S(=O)(=O)CC(C)=O | C9H10O3S
